US07326699B2
To a solution of 50 mg (0.125 mmol) of trans-7-(3-aminomethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine in 5 ml of methanol is added 45 mg (0.561 mmol) of potassium cyanate (Aldrich, Buchs, Switzerland). The mixture is refluxed for one week. After concentration to dryness, the residue is purified by flash-chromatography (dichloromethane:methanol=9:1) to provide trans-{3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-urea. Analytical HPLC: tR=6.43 min (Grad 2); ES-MS: m/eo=443.0.

reactant | trans-7-(3-aminomethyl-cyclobutyl)-5-(3-benzyloxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 0.125 mmol, 50 mg | NC[C@@H]1C[C@H](C1)N1C=C(C2=C1N=CN=C2N)C2=CC(=CC=C2)OCC2=CC=CC=C2 | C24H25N5O
reactant | potassium cyanate | 0.561 mmol, 45 mg | [O-]C#N.[K+]
solvent | methanol | 5 ml | CO | CH4O
product | trans-{3-[4-amino-5-(3-benzyloxy-phenyl)-pyrrolo[2,3-d]pyrimidin-7-yl]-cyclobutylmethyl}-urea | NC=1C2=C(N=CN1)N(C=C2C2=CC(=CC=C2)OCC2=CC=CC=C2)[C@@H]2C[C@H](C2)CNC(=O)N | C25H26N6O2
